US07524840B2
(2-amino-5-bromo-4-methoxyphenyl)-(2-chlorophenyl)-methanone (Xd) was prepared by reacting 2-chlorobenzaldehyde with 0.086 moles of 4-bromo-3-methoxy aniline in a manner analogous to Example 1. MH+/Z=340.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-bromo-3-methoxy aniline | 0.086 moles | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
product | (2-amino-5-bromo-4-methoxyphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)OC)Br)C(=O)C1=C(C=CC=C1)Cl | C14H11BrClNO2
